US08835420B2
5-Chloro-N4-(1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidine-2,4,6-triamine
To a 10 mL vial were added 1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (61 mg, 0.23 mmol), 5,6-dichloropyrimidine-2,4-diamine (41.0 mg, 0.229 mmol) and Et3N (0.064 mL, 0.46 mmol) in DMF (2 mL). The resulting yellow solution was heated to 90° C. and stirred for 48 hours. The crude product was purified by preparative HPLC eluting with 30-55% ACN in water (with ammonium bicarbonate). The fractions containing the desired product were combined and lyophilized to give the title compound as a pale yellow solid (5 mg, 5%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29-1.41 (m, 3 H), 3.73-3.86 (m, 3 H), 4.17-4.35 (m, 2 H), 4.43-4.58 (m, 2 H), 5.33-5.48 (m, 1 H), 5.69-5.80 (m, 2 H), 5.89-6.01 (m, 2 H), 6.32-6.43 (m, 1 H), 6.45-6.54 (m, 1 H), 7.37-7.43 (m, 1 H), 7.45-7.51 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C17H19ClF2N8, 409; found 409.

reactant | 1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.23 mmol, 61 mg | FC1(CN(C1)C=1C=C2C(=NC1C(C)N)C=CN2C)F | C13H16F2N4
reactant | 5,6-dichloropyrimidine-2,4-diamine | 0.229 mmol, 41.0 mg | ClC=1C(=NC(=NC1Cl)N)N | C4H4Cl2N4
reactant | Et3N | 0.46 mmol, 0.064 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-N4-(1-(6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidine-2,4,6-triamine | 5 mg, 5% | ClC=1C(=NC(=NC1N)N)NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)(F)F | C17H19ClF2N8
